Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Diarrhea and fever
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ year old man recently found to be HIV positive (CD4 230) 
started HAART a few weeks ago (only wife is aware of diagnosis), 
depression, who presents with 1 week of diarrhea, abdominal pain 
and 1 day of fevers as high as 102.1.

Patient reports having decreased appetite over the past few days 
as well. Also reports becoming tired when walking long 
distances, which is unusual for him, but denies shortness of 
breath. Reports intermittent "crampy" abdominal pain, ___ 
severity.

Up until yesterday was having "milky" rectal discharge which has 
since stopped. He denies having anything like this in the past. 

He recently was diagnosed with HIV by Dr. ___ 
presenting to establish care over concern that he might have 
HIV. Reports risky sexual behaviors as well as male sexual 
partners over the past several years, but none in the past year. 
Last anal sex was about one year ago. Wife was also just found 
to be HIV positive after routine testing performed prior to a 
planned surgery.

He also reports ___ days of bilateral ear pain and purulent 
drainage. He denies tinnitus or hearing loss.

Of note, he was also diagnosed with primary Syphilis by Dr. 
___ treated with IM benzithine penicillin.

He initially presented to his PCP ___ referred him 
to the ED for further evaluation.

ED course:
- Labs: Lactate 1.2, UA negative, WBC 6.7, lipase 16. Blood 
cultures sent, but per patient both sets were drawn from the 
same site with no delay between them (he is a phlebotomist). 
- Imaging: CXR - no acute process, CT abdomen w/ contrast - 
proctitis, likely reactive, mesenteric and pelvic 
lymphadenopathy
- Meds: Metronidazole 500mg PO, ceftriazone 1g IV, azithromycin 
500mg IV
 
Past Medical History:
- HIV (CD4 230) on HAART
- Primary syphilis s/p PCN
- Depression
- ADHD

 
Social History:
___
Family History:
Mother: ___, healthy
Father: ___, healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: T 99.0, BP, 98/66, P 97, RR 16, O2 97% on RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no
increased work of breathing
GI: soft, non-tender, non-distended. No hepatosplenomegaly 
appreciated.
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

DISCHARGE PHYSICAL EXAM:
Vital Signs:  98.2 (Tm 99.6) 105/67 78 18 99 ra 
GEN: Alert, NAD, somewhat cachectic
HEENT: NC/AT
EARS: Bilateral otoscopic exam last night revealed erythema of 
the TM, pus was visualized behind the TM on the left
CV: RRR, no m/r/g
PULM: CTA B 
GI: S/ND, BS present, very mild TTP in the lower abdomen without 
r/g
EXT: no ___ edema or calf tenderness 
NEURO: Non-focal

 
Pertinent Results:
Admission Labs:
___ 09:50AM BLOOD WBC-6.7 RBC-4.51* Hgb-13.6* Hct-40.4 
MCV-90 MCH-30.2 MCHC-33.7 RDW-13.0 RDWSD-42.8 Plt ___
___ 09:50AM BLOOD Neuts-60 Bands-0 ___ Monos-8 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-4.02 AbsLymp-2.08 
AbsMono-0.54 AbsEos-0.07 AbsBaso-0.00*
___ 09:50AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-2+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Burr-1+
___ 09:50AM BLOOD Glucose-98 UreaN-18 Creat-1.2 Na-137 
K-3.9 Cl-100 HCO3-25 AnGap-16
___ 09:50AM BLOOD ALT-17 AST-22 LD(LDH)-223 AlkPhos-84 
TotBili-0.3
___ 09:50AM BLOOD Albumin-3.8
___ 10:42AM BLOOD Lactate-1.2

Discharge Labs:
___ 07:43AM BLOOD  WBC-4.6 Lymph-22 Abs ___ CD3%-60 
Abs CD3-607 CD4%-26 Abs CD4-261* CD8%-33 Abs CD8-329 
CD4/CD8-0.79*
___ 07:27AM BLOOD WBC-4.5 RBC-3.59* Hgb-10.8* Hct-32.3* 
MCV-90 MCH-30.1 MCHC-33.4 RDW-13.2 RDWSD-43.5 Plt ___
___ 07:27AM BLOOD Glucose-107* UreaN-13 Creat-0.8 Na-139 
K-4.0 Cl-107 HCO3-26 AnGap-10
___ 07:27AM BLOOD Calcium-8.3* Phos-3.5 Mg-1.8

___ 02:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 02:50PM URINE RBC-2 WBC-0 Bacteri-NONE Yeast-NONE 
Epi-<1

Stool Cx NEGATIVE
Campylobacter NEGATIVE
Stool O&P - POSITIVE FOR BLASTOCYSTIC HOMINIS
C.diff NEGATIVE
Urine Cx NEGATIVE

Prending Studies:
LGV Serologies PENDING
Rectal Gonorrhea, Chlamydia, HSV PENDING
Blood Cx x 2 PENDING, with NGTD

ECG - Sinus rhythm. Baseline artifact. No previous tracing 
available for
comparison.
 
CXR - FINDINGS:  No focal consolidation is seen.  Chain sutures 
are noted in the right upper lung.  No pleural effusion or 
pneumothorax is seen.  Likely bullous changes are noted along 
the periphery of the right lung.  Heart size is normal. 
IMPRESSION:  
No acute cardiopulmonary process.

CT A/P - IMPRESSION:
1. Mild perirectal fat stranding and wall thickening may reflect 
proctitis; however, an underlying lesion cannot be definitively 
excluded.  Recommend sigmoidoscopy after resolution of this 
acute episode for further evaluation.
2. Likely reactive, mesenteric and pelvic lymphadenopathy.
 
Brief Hospital Course:
___ y/o M with PMHx of ADHD, depression, as well as recently 
diagnosed HIV (started on HAART) and primary syphilis (s/p PCN), 
here with 1 weeks of worsening fatigue as well as 1 day fevers, 
abdominal pain, and diarrhea. Imaging showing evidence of 
proctitis. 

# Proctitis: Likely etiology of patient's abd pain and diarrhea. 
ID consulted. Gonorrhea, chlamydia, and HSV pending. Stool cx 
negative as well. Pt was treated with empiric doxycycline for 
chlamydia proctitis (as well as CTX x 1 in the ED for gonorrhea 
proctitis) with improvement in his symptoms. Other 
considerations included ___, underlying IBD, malignant process. 
Of note, stool cx with blastocystis. Discussed with ID, nothing 
to do about this at this time. Pts symptoms, including his 
fatigue, improved dramatically with doxycycline. He was 
discharged home with 28 day course of doxycycline to cover 
proctitis as well as possible late latent syphilis (given 
possible remnant of chancre seen on shaft of penis). Would 
consider GI referral for endocscopy after abx to ensure no 
underlying mass lesion.

# Otitis Media: Discussed with ID today who reports that 
doxycycline would be adequate coverage.

# HIV: Truvada 1 tab qd, raltegravir 400mg BID. Would consider 
derm referral for ongoing rash. SW was involved during this 
admission.

# Depression: With prior SI/SA in the past. Endorsed depression 
over recent diagnosis but no SI. Seen by SW, who recommended 
that he establish care with a psychiatrist. Pt plans to discuss 
further with his PCP.

TRANSITIONAL ISSUES:
- continue doxy x 28 days
- f/u pending studies (LGV, HSV, gonorrhea, chlamydia, blood cx 
x 2)
- consider GI referral for scope
- consider derm referral
- pt should establish care with a psychiatrist as above
- note that imaging showed evidence of COPD, which would also be 
a new diagnosis for pt

________________________________________
___, MD
___, ___ Medicine
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 30 mg oral BID 
2. QUEtiapine Fumarate 100 mg PO QHS:PRN anxiety/insomnia 
3. ClonazePAM 1 mg PO BID:PRN anxiety 
4. Raltegravir 400 mg PO BID 
5. Emtricitabine-Tenofovir (Truvada) 1 TAB PO QHS 
6. ValACYclovir 1000 mg PO Q12H:PRN as needed for outbreak of 
HSV 
7. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
wheezing 
8. FoLIC Acid 1 mg PO DAILY 
9. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
10. Ketoconazole Shampoo 1 Appl TP ASDIR 
11. TraZODone 150 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. ClonazePAM 1 mg PO BID:PRN anxiety 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO QHS 
3. FoLIC Acid 1 mg PO DAILY 
4. QUEtiapine Fumarate 100 mg PO QHS:PRN anxiety/insomnia 
5. Raltegravir 400 mg PO BID 
6. TraZODone 150 mg PO QHS:PRN insomnia 
7. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
wheezing 
8. dextroamphetamine-amphetamine 30 mg oral BID 
9. Ketoconazole Shampoo 1 Appl TP ASDIR 
10. ValACYclovir 1000 mg PO Q12H:PRN as needed for outbreak of 
HSV 
11. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
12. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*53 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Proctitis
HIV
Syphilis (recently treated)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented with lethargy, abdominal pain, diarrhea, and 
fevers. You were found to have evidence of proctitis on your CAT 
scan. You were started on doxycycline for possible infectious 
causes of your proctitis. You will continue this medication for 
4 weeks total. Please keep your follow up appointments as 
scheduled.
 
Followup Instructions:
___